US05827881
A! Starting from dibenzylamine (48.7 ml, 0.25 mole) and methyl acrilate (112.5 ml, 1.25 moles) in 259 ml of methanol, and following the procedure of Example 15,A!, there were obtained 70 g (yield: 99%) of methyl 3-(N,N-dibenzylamino)-propanoate which was used as such in the next step.

reactant | dibenzylamine | 0.25 mole, 48.7 ml | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | methyl acrilate | 1.25 moles, 112.5 ml | C(C=C)(=O)OC | C4H6O2
solvent | methanol | 259 ml | CO | CH4O
product | methyl 3-(N,N-dibenzylamino)-propanoate | 70 g, yield: 99% | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)CCC(=O)OC | C18H21NO2
